US07259266B2
Step 3. Preparation of 8-iodo-7-methoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid
To the solution of 0.4 g (0.93 mmol) of ethyl 8-iodo-7-methoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate in 8 mL of tetrahydrofuran was added a solution of 155 mg (3.7 mmol) of lithium hydroxide hydrate (LiOH—H2O) in 15 mL of water. The resulting solution was heated to reflux for one h. After cooling to room temperature, the volatiles were removed, the residue was acidified at 0° C. to pH=1.5 with dilute hydrochloric acid. The product was extracted with ethyl ether. The combined organic extracts were washed with brine, dried over anhydrous magnesium sulfate and concd in vacuo to afford 0.30 g (81%) of a light yellow solid: 1H NMR (CDCl3/400 MHz) 7.67(s, 1H), 7.18(d, J=8.4 Hz, 1H), 6.51(d, J=8.4 Hz, 1H), 5.78(q, J=6.8 Hz, 1H), 3.92(s, 3H). MS (ESI+) 400.9 (M+1, 100). MS(ES−) 398.9(M−H, 100). HRMS (ES−) m/z calcd for (M−H; C12H7F3O4): 398.9336, found 398.9368.

reactant | ethyl 8-iodo-7-methoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.93 mmol, 0.4 g | IC=1C(=CC=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OC | C14H12F3IO4
reactant | lithium hydroxide hydrate | 3.7 mmol, 155 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | water | 15 mL | O | H2O
product | 8-iodo-7-methoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 0.30 g, 81% | IC=1C(=CC=C2C=C(C(OC12)C(F)(F)F)C(=O)O)OC | C12H8F3IO4
